US05786508
A solution of 4-chloro N-pivaloylaniline* (2.11 g, 10 mmol) in 30 ml of dry THF was cooled in an ice bath under an atmosphere of nitrogen. Then an hexane solution of 1.6M of n-Buli (15.625 ml, 25 mmol) was added dropwise. After stirring at 0° C. for 2.5 h, trimethyltin chloride (2.19 g, 11 mmol) dissolved in dry THF (8 ml) was added within 20 min at 0° C. The reaction was then stirred for 2 h at 0° C. and for 16 h at room temperature, quenched with water and extracted with ethyl acetate. The organic layer was washed with brine, dried and concentrated to dryness. The residue was purified by flash chromatography on silica gel (di-isopropylether: petroleum ether 40°/70°=10:23) to yield 4-chloro-2-trimethylstannyl-N-pivaloylaniline as a white solid 3.1 g; 82.9%; m.p. 169°-172° C.).

reactant | 4-chloro N-pivaloylaniline | ClC1=CC=C(NC(C(C)(C)C)=O)C=C1 | C11H14ClNO
reactant | hexane | CCCCCC | C6H14
reactant | trimethyltin chloride | 11 mmol, 2.19 g | C[Sn](C)(C)Cl
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 4-chloro-2-trimethylstannyl-N-pivaloylaniline | 3.1 g | ClC1=CC(=C(NC(C(C)(C)C)=O)C=C1)[Sn](C)(C)C | InChI=1S/C11H13ClNO.3CH3.Sn/c1-11(2,3)10(14)13-9-6-4-8(12)5-7-9;;;;/h4-6H,1-3H3,(H,13,14);3*1H3;
